US07217736B2
3,6-Dioxa-1-octyl 5-amino-4-oxopentanoate hydrochloride [compound 23]
From diethylene glycol monoethyl ether (5.0 g; 37 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 70° C. The reaction was complete after 4 h. The yield was 0.90 g (53%) of light tan solid.

reactant | diethylene glycol monoethyl ether | 37 mmol, 5.0 g | C(C)OCCOCCO | C6H14O3
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 3,6-Dioxa-1-octyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCCOCCOCC)=O | InChI=1S/C11H21NO5.ClH/c1-2-15-5-6-16-7-8-17-11(14)4-3-10(13)9-12;/h2-9,12H2,1H3;1H
